US07846944B2
Step 2B: Synthesis of tert-Butyl-4-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate
A mixture of Pd(dppf)Cl2 (126 mg, 0.17 mmol), KOAc (390 mg, 3.97 mmol), 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (658 mg, 2.59 mmol) and tert-butyl 3-bromo-4-chlorophenylcarbamate (530 mg, 1.73 mmol) in 1,4-dioxane (5 mL) was heated in a microwave at 130° C. for 25 min. The crude reaction mixture was filtered through a pad of celite, and rinsed with EtOAc. The filtrate was concentrated and the crude residue was purified on the ISCO 40 g column (0-30% EtOAc in hexanes) to afford the title compound as a light yellow oil that crystallized upon standing. MS (ESI, pos.ion) m/z: 376.1 (M+Na+).

reactant | KOAc | 3.97 mmol, 390 mg | CC(=O)[O-].[K+]
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 2.59 mmol, 658 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | tert-butyl 3-bromo-4-chlorophenylcarbamate | 1.73 mmol, 530 mg | BrC=1C=C(C=CC1Cl)NC(OC(C)(C)C)=O | C11H13BrClNO2
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.17 mmol, 126 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl-4-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylcarbamate | C(C)(C)(C)OC(NC1=CC(=C(C=C1)Cl)B1OC(C(O1)(C)C)(C)C)=O | C17H25BClNO4
